US04218458
A mixture of 12 parts of 4-[2-(methylthio)-1-propyl-1H-imidazol-5-yl]phenol, 10 parts of Raney-nickel catalyst and 80 parts of ethanol is stirred and refluxed for 2 hours. The Raney-nickel is filtered off and the filtrate is stirred and refluxed for 2 hours with another 10 parts of Raney-nickel catalyst. The Raney-nickel catalyst is filtered off and the filtrate is evaporated, yielding 5.5 parts (61%) of 4-(1-propyl-1H-imidazol-5-yl)phenol; mp. 160° C.

reactant | 4-[2-(methylthio)-1-propyl-1H-imidazol-5-yl]phenol | CSC=1N(C(=CN1)C1=CC=C(C=C1)O)CCC | C13H16N2OS
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-(1-propyl-1H-imidazol-5-yl)phenol | 61% | C(CC)N1C=NC=C1C1=CC=C(C=C1)O | C12H14N2O
